US08956999B2
To a suspension of sodium hydride, 60% dispersion in mineral oil solution (1.6 g, 40 mmol) in tetrahydrofuran (50 ml) is added a solution of (2-bromothiazol-5-yl)methanol (6.75 g, 35 mmol) in tetrahydrofuran (50 ml) at 0° C. A solution of 5-chloro-2,2,6,6-tetramethylcyclohex-4-ene-1,3-dione (7.0 g, 35 mmol) in tetrahydrofuran (50 ml) is then added and the reaction mixture is heated to reflux for 18 hours. The reaction mixture is poured into water, acidified to pH4 with dilute aqueous hydrochloric acid and extracted with ethyl acetate (4×50 ml). The combined organic layers are dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated to a brown oil. The crude product is purified by flash chromatography on silica gel to give 5-(2-bromothiazol-5-ylmethoxy)-2,2,6,6-tetramethylcyclohex-4-ene-1,3-dione (6.75 g).

reactant | sodium hydride | [H-].[Na+]
reactant | (2-bromothiazol-5-yl)methanol | 35 mmol, 6.75 g | BrC=1SC(=CN1)CO | C4H4BrNOS
reactant | 5-chloro-2,2,6,6-tetramethylcyclohex-4-ene-1,3-dione | 35 mmol, 7.0 g | ClC1=CC(C(C(C1(C)C)=O)(C)C)=O | C10H13ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-(2-bromothiazol-5-ylmethoxy)-2,2,6,6-tetramethylcyclohex-4-ene-1,3-dione | 6.75 g | BrC=1SC(=CN1)COC1=CC(C(C(C1(C)C)=O)(C)C)=O | C14H16BrNO3S
